US07235699B2
100 g 3,3,6-trimethyl-5-butoxy-indane are dissolved in 400 g acetic acid and 1 g Co-II acetate is added. The reaction mixture is heated to 40° C., with stirring, and oxygen is passed through this solution for 10 hours. After cooling to room temperature, 500 g water and 500 g methyl tert.-butyl ether are added. After phase separation, the organic phase is rinsed with a further 200 g water and distilled in a 30 cm packed column. 80 g 3,3,6-trimethyl-5-butoxy-indan-1-one is obtained, which corresponds to a yield of 75% of theory. The compound can be recrystallised from heptane and a white solid is obtained, melting point: 59° C.

reactant | 3,3,6-trimethyl-5-butoxy-indane | 100 g | CC1(CCC2=CC(=C(C=C12)OCCCC)C)C | C16H24O
reactant | oxygen | O=O | O2
reactant | water | 500 g | O | H2O
reactant | methyl tert.-butyl ether | 500 g | C(C)(C)(C)OC | C5H12O
solvent | acetic acid | 400 g | C(C)(=O)O | C2H4O2
product | 3,3,6-trimethyl-5-butoxy-indan-1-one | 80 g, yield of 75% | CC1(CC(C2=CC(=C(C=C12)OCCCC)C)=O)C | C16H22O2
